US09085585B2
Step 3: Synthesis of 2-morpholin-4-yl-6-piperidin-4-yl-pyrimidin-4-ol, hydrochloride salt
4-(6-Hydroxy-2-morpholin-4-ylpyrimidin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.19 g, 0.52 mmol) was added to 2 N hydrogen chloride in diethyl ether and stirred for 18 hours at room temperature. The resultant product was isolated by filtration and washed with ether to provide 2-morpholin-4-yl-6-piperidin-4-yl-pyrimidin-4-01, hydrochloride salt (0.16 g, 91% yield) as a white solid. 1H NMR (300 MHz, CD3OD/TMS): δ=6.17 (s, 1H), 3.90-3.78 (m, 8H), 3.60-3.50 (m, 2H), 3.26-3.1 (m, 3H), 2.32-2.20 (m, 2H), 2.00-1.80 (m, 2H). 13C NMR (75 MHz, CD3OD/TMS): δ=171.60, 164.86, 155.10, 97.63, 66.93, 45.13, 46.92, 44.81, 38.29, 28.41.

reactant | 4-(6-Hydroxy-2-morpholin-4-ylpyrimidin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.52 mmol, 0.19 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC(=NC(=C1)O)N1CCOCC1 | C18H28N4O4
reactant | hydrogen chloride | 2 N | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-morpholin-4-yl-6-piperidin-4-yl-pyrimidin-4-ol, hydrochloride salt | Cl.N1(CCOCC1)C1=NC(=CC(=N1)O)C1CCNCC1 | InChI=1S/C13H20N4O2.ClH/c18-12-9-11(10-1-3-14-4-2-10)15-13(16-12)17-5-7-19-8-6-17;/h9-10,14H,1-8H2,(H,15,16,18);1H
